US08389507B2
b) (S)-1-Azetidin-2-ylmethyl-(4-chloro-phenyl)-ethyl-amine
(S)-2-[(4-Chloro-phenylamino)-methyl]-azetidine-1-carboxylic acid tert-butyl ester (0.08 g, 0.27 mmol) was dissolved in methanol (3 ml), then acetaldehyde (0.059 g, 1.35 mmol), zinc chloride (0.147 g, 1.1 mmol) and sodium cyanoborohydride (0.51 g, 0.81 mmol) were added and the mixture was stirred overnight at 40° C. Saturated ammonium acetate solution (10 ml) was added and extracted with ethyl acetate (3×30 ml). The combined organic layers were dried with magnesium sulphate, filtered and concentrated in vacuo. The residue was dissolved in dichloromethane (3 ml) and trifluoroacetic acid (3 ml) was added. Solvent and access trifluoroacetic acid was evaporated, diisopropylethylamine (0.3 ml) was added to liberate the free base and the mixture was purified by flash chromatography (column: Isolute® Flash-NH2 from Separtis; eluent: ethyl acetate/heptane 1:1) to yield a light yellow gum, (0.022 g, 38%); MS (ISP): 225.1 ((M+H)+.).

reactant | (S)-2-[(4-Chloro-phenylamino)-methyl]-azetidine-1-carboxylic acid tert-butyl ester | 0.27 mmol, 0.08 g | C(C)(C)(C)OC(=O)N1[C@@H](CC1)CNC1=CC=C(C=C1)Cl | C15H21ClN2O2
reactant | acetaldehyde | 1.35 mmol, 0.059 g | C(C)=O | C2H4O
reactant | sodium cyanoborohydride | 0.81 mmol, 0.51 g | C(#N)[BH3-].[Na+]
reactant | ammonium acetate | 10 ml | C(C)(=O)[O-].[NH4+]
solvent | methanol | 3 ml | CO | CH4O
catalyst | zinc chloride | 1.1 mmol, 0.147 g | [Cl-].[Zn+2].[Cl-]
product | (S)-1-Azetidin-2-ylmethyl-(4-chloro-phenyl)-ethyl-amine | N1C(CC1)C[C@H](C)NC1=CC=C(C=C1)Cl | C12H17ClN2
